US03956374
4-(o-Bromobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
p-Chlorobenzaldehyde (2.81 g., 0.02 mole) in ethanol (10 ml.) is added to a solution of 4-(o-bromobenzyl)-4-phenyl-5-oxohexanoic acid (3.0 g., 0.006 mole) and sodium hydroxide (0.56 g., 0.014 mole) in water (50 ml.). The resulting mixture is heated on a steam bath for 24 hours. The reaction solution is cooled to room temperature, diluted with water (200 ml.), and extracted with ether to remove the excess p-chlorobenzaldehyde. Ether is expelled from the aqueous phase by warming. The solution is cooled, acidified with dilute hydrochloric acid (10 ml.), and the yellowish solid which precipitates is collected and air-dried to yield 3.5 g. Recrystallization from ethanol gives material with m.p. 210°-213.5°C.

reactant | p-Chlorobenzaldehyde | 0.02 mole, 2.81 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-(o-bromobenzyl)-4-phenyl-5-oxohexanoic acid | 0.006 mole, 3.0 g | BrC1=C(CC(CCC(=O)O)(C(C)=O)C2=CC=CC=C2)C=CC=C1 | C19H19BrO3
reactant | sodium hydroxide | 0.014 mole, 0.56 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-(o-Bromobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | BrC1=C(CC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=CC=C1 | C26H22BrClO3
